US07268232B2
3,5-Dimethyl-4-(4-nitronaphthalen-1-yl)piperidine (116BG35-5)
A Pyrex tube was charged with 1-chloro-4-nitronaphthalene (52 mg, 0.25 mmol) and 3,5-dimethylpiperidine (133 μL, 1.0 mmol) followed by acetonitrile (2 mL). The tube was capped and the reaction tube was exposed to microwave irradiation (180° C., 5 min). The reaction mixture was filtered and the solid washed with cold ethanol. If needed the compound was purified according to Purification method C. Yield: 58 mg (82%).

reactant | 1-chloro-4-nitronaphthalene | 0.25 mmol, 52 mg | ClC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6ClNO2
reactant | 3,5-dimethylpiperidine | 1.0 mmol, 133 μL | CC1CNCC(C1)C | C7H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3,5-Dimethyl-4-(4-nitronaphthalen-1-yl)piperidine | CC1CNCC(C1C1=CC=C(C2=CC=CC=C12)[N+](=O)[O-])C | C17H20N2O2
